US07091215B2
7-(2,4-Dichlorophenyl)-2-ethyl-3-nitropyrazolo[1,5-a]pyridine
After dissolving 7-(2,4-dichlorophenyl)-2-ethylpyrazolo[1,5-a]pyridine (280 mg) in acetonitrile (20 mL), nitronium tetrafluoroborate (255 mg) was added 4 times at 30 minute intervals while stirring on ice. The reaction mixture was added to ice water, extraction was performed with ethyl acetate and the extract was washed with water and brine. After drying over anhydrous magnesium sulfate and filtration, the solvent was concentrated under reduced pressure, the residue was purified by silica gel column chromatography, and the title compound (115 mg) was obtained from the n-hexane:ethyl acetate (20:1) fraction as yellow crystals.

reactant | 7-(2,4-dichlorophenyl)-2-ethylpyrazolo[1,5-a]pyridine | 280 mg | ClC1=C(C=CC(=C1)Cl)C1=CC=CC=2N1N=C(C2)CC | C15H12Cl2N2
reactant | nitronium tetrafluoroborate | 255 mg | F[B-](F)(F)F.O=[N+]=O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 7-(2,4-Dichlorophenyl)-2-ethyl-3-nitropyrazolo[1,5-a]pyridine | 115 mg | ClC1=C(C=CC(=C1)Cl)C1=CC=CC=2N1N=C(C2[N+](=O)[O-])CC | C15H11Cl2N3O2
